US08440666B2
5-Methoxytricyclo[3.3.1.13,7]decan-2-one
55% sodium hydride (40 mg, 0.917 mmol) in N,N-dimethylformamide (1 mL) was mixed with 5-hydroxy-2-adamantanone (100 mg, 0.602 mmol) and methyl iodide (750 μL, 12 mmol) at 0° C. and stirred at 50° C. for 8 hours. After completion of the reaction, the reaction solution was mixed with saturated aqueous sodium chloride and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting crude reaction product containing the desired product was used for the next step.

reactant | sodium hydride | 0.917 mmol, 40 mg | [H-].[Na+]
reactant | 5-hydroxy-2-adamantanone | 0.602 mmol, 100 mg | OC12CC3C(C(CC(C1)C3)C2)=O | C10H14O2
reactant | methyl iodide | 12 mmol, 750 μL | CI | CH3I
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-Methoxytricyclo[3.3.1.13,7]decan-2-one | COC12CC3C(C(CC(C1)C3)C2)=O | C11H16O2
